US06908930B2
SYNTHESIS OF 4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-5-[3-METHYL-5-(MORPHOLINE-4-CARBONYL)-1H-PYRROL-2-YLMETHYLENE]-5,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-6-ONE (FORMULA 26)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (93 mg, 0.33 mmol), 3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde (73 mg, 0.33 mmol), and piperidine (1 drop) in ethanol (2 mL) was stirred at room temperature for 3 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 110.3 mg (69%) of the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.43 (br s, 1H, NH), 11.74 (br s, 1H, NH), 9.23 (br s, 1H), 8.33 (s, 1H), 7.73 (dd, J=2.5 & 6.7 Hz, 1H), 7.44 (m, 1H), 7.32-7.37 (m, 2H), 6.61 (d, J=2.28 Hz, 1H), 3.69 (m, 4H, 2×CH2), 3.65 (m, 4H, 2×CH2), 2.22 (s, 3H, CH3). MS 483 [M+].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.33 mmol, 93 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.33 mmol, 73 mg | CC1=C(NC(=C1)C(=O)N1CCOCC1)C=O | C11H14N2O3
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-5-[3-METHYL-5-(MORPHOLINE-4-CARBONYL)-1H-PYRROL-2-YLMETHYLENE]-5,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-6-ONE | 110.3 mg, 69% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=CC2C)C(=O)N2CCOCC2)=O | C23H20ClFN6O3
